US07671056B2
1) 6-Fluoro-8 bromoquinoline
To a mixture of 2-bromo-4-fluoroaniline (commercially available, 7.0 g), glycerol (7.0 g) and m-nitrobenzene sulfonic acid sodium salt (13.0 g) was added 20 ml of 70% sulfuric acid dropwise. The reaction temperature was raised to 150° C. for 4 hr. The mixture then was cooled to room temperature, poured on ice water and filtered through celite. The filtrate was neutralized with NaOH and the resulting precipitate was collected by vacuum filtration to yield 3.47 g of the title compound as a light yellow solid; MP=75-78° C.; MS (ES) m/z (relative intensity): 227 (M+H)+ (100).

reactant | 2-bromo-4-fluoroaniline | BrC1=C(N)C=CC(=C1)F | C6H5BrFN
reactant | m-nitrobenzene sulfonic acid sodium salt | 13.0 g | [Na+].[N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-]
reactant | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
solvent | glycerol | 7.0 g | OCC(O)CO | C3H8O3
product | 6-Fluoro-8 bromoquinoline | 3.47 g | FC=1C=C2C=CC=NC2=C(C1)Br | C9H5BrFN
